US07705004B2
4-(4-(1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzenesulfonamide
To a solution of 4-(4-(1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzenesulfonamide (105 mg, 0.18 mmol) in dioxane (5 mL), aq. 1N KOH (1.50 mL, 1.50 mmol) was added. The mixture was then heated at 70° C. for 4 h. before it was concentrated in vacuo. The residue was then acidified with acetic acid (HOAc) (2.0 mL) and purified by HPLC to give the title compound (15 mg). MS 421.1 (M+H) (Compound 11-1).

reactant | 4-(4-(1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzenesulfonamide | 0.18 mmol, 105 mg | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)S(=O)(=O)N)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C26H22N8O4S2
reactant | KOH | 1.50 mmol, 1N, 1.50 mL | [OH-].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-(4-(1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzenesulfonamide | 15 mg | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)S(=O)(=O)N)NC=C2 | C19H16N8O2S
